US05330986
To a cooled solution of indole-7-carboxylic acid (3.22 g; 20 mmoles) in 30 ml dimethylformamide was added 1,1'-carbonyldiimidazole (3.24 g; 20 mmoles). This was stirred for 50 minutes at ice bath temperature at which time 4-(4-acetylphenyl)piperazine was added to the reaction. This was stirred for 2 hours at ambient temperature. The solvent was then concentrated off and the resulting oil was triturated with water and filtered to give a solid. The solid was recrystallized from methanol:waterto give 5.31 g (76%) of 4-(4-(Acetylphenyl)-1-(1H-indol-7-ylcarbonyl)piperazine, m.p. 189°-191° C.

reactant | indole-7-carboxylic acid | 20 mmoles, 3.22 g | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | 1,1'-carbonyldiimidazole | 20 mmoles, 3.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-acetylphenyl)piperazine | C(C)(=O)C1=CC=C(C=C1)N1CCNCC1 | C12H16N2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-(Acetylphenyl)-1-(1H-indol-7-ylcarbonyl)piperazine | C(C)(=O)C1=C(C=CC=C1)N1CCN(CC1)C(=O)C=1C=CC=C2C=CNC12 | C21H21N3O2
